US05318977
Preparation of N-(tetrahydro-1H-pyrrolizin-7a(5H)-ylmethyl)-1H-indole-3-carboxamide
Following the procedure of example 1, 7a-Aminomethylhexahydro-1H-pyrrolizine is reacted with indole-3-carboxylic acid to afford the title compound.

reactant | 7a-Aminomethylhexahydro-1H-pyrrolizine | NCC12CCCN2CCC1 | C8H16N2
reactant | indole-3-carboxylic acid | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
product | N-(tetrahydro-1H-pyrrolizin-7a(5H)-ylmethyl)-1H-indole-3-carboxamide | C1CCN2CCCC12CNC(=O)C1=CNC2=CC=CC=C12 | C17H21N3O
